US07906517B2
2-{[(3,5-Bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenol (300 mg) and pyridine (50 μl) are dissolved in methylene chloride (5 ml) and thereto is added trifluoromethanesulfonic anhydride (104 μl) under ice-cooling, and the mixture is stirred under nitrogen atmosphere for 1 hour. The reaction solution is cooled to room temperature, and thereto are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1 to 7:3) to give trifluoromethanesulfonic acid 2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl ester (330 mg). MS (m/z): 713 [M+H]+

reactant | 2-{[(3,5-Bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenol | 300 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | C25H21F9N4O2
reactant | pyridine | 50 μl | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 104 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trifluoromethanesulfonic acid 2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl ester | 330 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)OS(=O)(=O)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C26H20F12N4O4S
